US05123951
4-Octyne and dimethyl diazomalonate were reacted in the presence of cupric acetylacetonate in a manner similar to that described in Example XCVII Part A to give dimethyl 2,3-di-n-propyl-2-cyclopropene-1,1-dicarboxylate which was saponified to give mono-methyl 2,3-di-n-propyl-2-cyclopropene-1,1-dicarboxylate and worked up by the general procedure of Example XCVII Part B. Reaction of the latter mono-methyl ester in sequence with ethyl chloroformate and 4-bromo-2-methylaniline, in the presence of potassium carbonate and 18-crown-6, in a manner similar to that described in Example XCIX Part B to give methyl 1-(4-bromo-2-methylphenyl-aminocarbonyl)-2,3-di-n-propyl-2-cyclopropenecarboxylate having a melting point of 52° C.-54° C.

reactant | 4-Octyne | CCCC#CCCC | C8H14
reactant | dimethyl diazomalonate | [N+](=[N-])=C(C(=O)OC)C(=O)OC | C5H6N2O4
catalyst | cupric acetylacetonate | CC(=O)CC(=O)C.CC(=O)CC(=O)C.[Cu]
product | dimethyl 2,3-di-n-propyl-2-cyclopropene-1,1-dicarboxylate | C(CC)C=1C(C1CCC)(C(=O)OC)C(=O)OC | C13H20O4
